US08580399B2
2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (8.80 g, 22.78 mmol) and 1,3-dibromobenzene (21.49 g, 91 mmol) were dissolved in toluene (300 mL), and potassium carbonate (9.44 g, 68.3 mmol) in 50 mL of water and the Pd(PPh3)4 catalyst (0.263 g, 0.228 mmol) were then added. The reaction mixture was degassed and refluxed under N2 overnight. The organic layer was then separated, evaporated and subjected to column chromatography on silica gel, eluted with hexane/DCM 9:1 v/v mixture, providing 4-(3′-bromo-[1,1′-biphenyl]-3-yl)dibenzo[b,d]thiophene (7.5 g, 18.06 mmol, 79% yield) as white solid.

reactant | 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 22.78 mmol, 8.80 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=C(C=CC3)B3OC(C(O3)(C)C)(C)C | C24H23BO2S
reactant | 1,3-dibromobenzene | 91 mmol, 21.49 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium carbonate | 68.3 mmol, 9.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.228 mmol, 0.263 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3′-bromo-[1,1′-biphenyl]-3-yl)dibenzo[b,d]thiophene | 18.06 mmol, 7.5 g, 79% yield | BrC=1C=C(C=CC1)C1=CC(=CC=C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C24H15BrS
